US07612075B2
To a solution of 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one (20 mg, 0.047 mmol) in n-butanol (0.5 mL) is added 6-chloronicotinamide (15 mg, 0.094 mmole) and diisopropylethylamine (0.016 mL, 0.094 mmole) and heated at 110° C. 16 h. The reaction is concentrated and purified by column chromatography (silica, 20% methanol/dichloromethane) to provide 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid. 1H NMR (300 MHz, CD3OD) δ 8.59 (d, 1H), 8.11-7.92 (m, 3H), 7.54 (dd, 1H), 6.72 (d, 1H), 4.27 (d, 1H), 3.92 (s, 2H), 3.57-3.47 (m, 4H), 3.25 (d, 2H), 2.79-2.71 (dt, 2H), 1.96-1.80 (m, 1H), 1.50 (d, 2H), 1.29-1.06 (m, 2H); MS (Ion spray) 549 (M+H)+.

reactant | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one | 0.047 mmol, 20 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCNCC2)=O)C1 | C18H22ClN3O3S2
reactant | 6-chloronicotinamide | 0.094 mmole, 15 mg | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | diisopropylethylamine | 0.094 mmole, 0.016 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | n-butanol | 0.5 mL | C(CCC)O | C4H10O
product | 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C2=NC=C(C=C2)C(=O)O)=O)C1 | C24H25ClN4O5S2
